Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:7][C:8]([H:9])([H:10])[H:11].[H:1][C:2]#[C:3][O:4][C:5][H:6]>>[H:1][C:2]#[C:3][O:4]/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[H:11],-6.13736112116
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[O:13][H:14],1.4272228054700002
[O:1][C:2]#[C:3][C:4][C:5]([H:6])([H:7])[H:8]>>[C:4][C:5]([H:6])([H:7])[H:8].[O:1][C:2][C:3],6.91684781274
[C:1]#[C:2][H:3].[C:4]([H:5])[O:6][C:7]#[C:8]>>[C:1]/[C:2]([H:3])=[C:4](\[H:5])[O:6][C:7]#[C:8],-4.2349408015900005
[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:4](=[C:5]([H:6])[H:7])=[C:8]([H:9])[C:10]([H:11])[H:12].[H:1][C:2][H:3],5.13899758686
[H:1][C:2]([H:3])=[C:4][C@:5]([H:6])([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[H:11],1.37339346704
[H:1][C:2]([H:3])=[C:4][O:5][C:6][C:7]([H:8])([H:9])[H:10]>>[H:1][C:2]([H:3])=[C:4].[O:5]=[C:6][C:7]([H:8])([H:9])[H:10],0.15849466017
[C:5]([H:6])([O:7][H:8])=[C:9]([H:10])[H:11].[O:1][C:2]#[C:3][H:4]>>[O:1]=[C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])[H:11],-1.28094354658
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[H:9].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])[O:10][H:11],3.67396731395
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1][O:2]/[C:3]([H:4])=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:5],1.90346894462
[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[H:8],4.3303853488699975
[H:11].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])[H:10]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[H:11],-4.57315455497
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6](=[O:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6](=[O:7])[C:8]([H:9])[H:10].[H:11],4.29284063626
[C:6]([H:7])([H:8])[H:9].[O:1]=[C:2]=[C:3][O:4][C:5]>>[O:1]=[C:2]=[C:3][O:4][C:5][C:6]([H:7])([H:8])[H:9],-2.10757884274
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:8]([H:9])([H:10])=[C:11]([H:12])[H:13].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])[H:7],0.743493107419
[H:1][O:2][C:3](=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[O:12][H:13]>>[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3][O:12][H:13],4.23208161628
[H:1][O:2][C:3]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:4]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-4.1124780873
[C:1][C:2]([H:3])([H:4])[O:5][C:6](=[C:7][H:8])[C:10]([H:11])([H:12])[H:13].[H:9]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-5.11577373111
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[H:12].[H:1],3.52921807676
[H:15].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.60526451421
[H:12].[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])/[C:9]=[C:10](\[H:11])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-1.4026477042299998
[C:1][C:2]([H:3])([H:4])[O:5]/[C:6]([H:7])=[C:8]/[O:9][H:10]>>[C:1].[C:2]([H:3])([H:4])[O:5][C:6]([H:7])[C:8][O:9][H:10],3.450775764
[C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-5.383359593220002
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[O:8][C:9]([H:10])([H:11])[H:12].[H:7],4.81394544619
[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2].[O:3]=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13],2.8778212182800003
[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.93706743816
[C:7]([H:8])([H:9])=[C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-1.01143209428
[H:1][O:2][C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][O:2][C@@:3]1([H:4])[O:5][C:6]1[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-1.82051853941
